US04308277
10.3 g of cis-4,5-diphenyl-imidazolidine-2-thione are suspended in a mixture of 25 ml of methanol and 3.8 ml of ethyl iodide and the suspension is refluxed for 1 hour, with stirring. A further 75 ml of methanol are then added and the mixture is refluxed for 16 hours. The clear reaction solution is evaporated to dryness and the residue is taken up in a mixture of 150 ml of water and 250 ml of ethyl acetate. In order to liberate the base, the mixture is rendered alkaline iwth concentrated aqueous ammonia solution and shaken thoroughly and the organic phase is separated off, dried over sodium sulfate and evaporated. Recrystallisation of the residue from isopropanol/petroleum ether yields cis-2-ethylthio-4,5-diphenyl-imidazoline with a melting point of 95°-96°.

reactant | cis-4,5-diphenyl-imidazolidine-2-thione | 10.3 g | C1(=CC=CC=C1)[C@@H]1NC(N[C@@H]1C1=CC=CC=C1)=S | C15H14N2S
reactant | ethyl iodide | 3.8 ml | C(C)I | C2H5I
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 75 ml | CO | CH4O
product | cis-2-ethylthio-4,5-diphenyl-imidazoline | C(C)SC=1N[C@@H]([C@@H](N1)C1=CC=CC=C1)C1=CC=CC=C1 | C17H18N2S
